US06713638B2
2-Amino-3-benzoylthiophene (3a).
A mixture of benzoylacetonitrile (1.45 g, 10 mmole), 2,5-dihydroxy-1,4-dithiane (0.76 g, 5 mmole) and diethylamine (0.73 g=1.04 mL, 10 mmole) in 4 mL absolute ethanol was heated in a teflon-sealed pressure tube for 4 hours at 50° C. with frequent stirring on a vortex mixer. By 2 hours starting materials had dissolved and shortly thereafter product began to crystallize. After refrigerating the tube overnight, the product was filtered off and washed with a little methanol to give bright yellow crystals. Yield 1.3 g, 64% 1H NMR (CDCl3) δ: 6.14 (d, 1H, H-5), 6.88 (d, 1H, H-4), 6.95 (br s, 2H, NH2), 7.5-7.7 (m, 5H, C6H5).

reactant | benzoylacetonitrile | 10 mmole, 1.45 g | C(C1=CC=CC=C1)(=O)CC#N | C9H7NO
reactant | 2,5-dihydroxy-1,4-dithiane | 5 mmole, 0.76 g | OC1SCC(SC1)O | C4H8O2S2
reactant | diethylamine | 10 mmole, 1.04 mL, 0.73 g | C(C)NCC | C4H11N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-Amino-3-benzoylthiophene | NC=1SC=CC1C(C1=CC=CC=C1)=O | C11H9NOS
